data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4141,4742,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][C:21]#[N:22]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:20]([C:21]#[N:22])[N:19]=[C:18]2[C:16]([CH3:15])=[O:17],water,298.15,17.040985305283602,-21.403133770407266
984,1069,[CH3:12][O:13][C:14](=[O:15])[C:16]([CH3:17])=[NH+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([O:13][CH3:12])=[O:15])([CH3:17])[NH:18][C:19]3([C:20]#[N:21])[C:22]([CH3:23])=[O:24],water,298.15,23.63736404701985,-25.148874778252765
2573,2854,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[N-:27][N+:28]#[C:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[c:8]2[c:9]([n:27]([C:25]([NH:24][CH3:23])=[O:26])[n:28][c:29]2-[c:30]2[cH:31][cH:32][cH:33][cH:34][cH:35]2)[C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1,water,298.15,27.04670298129713,-56.36030545746135
2802,3113,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][O:23][C:24](=[O:25])[C:26]([C:27]#[N:28])=[O+:29][C-:30]([C:31]#[N:32])[C:33](=[O:34])[O:35][CH3:36]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([C:10](=[O:11])[O:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:30]([C:31]#[N:32])([C:33](=[O:34])[O:35][CH3:36])[O:29][C:26]2([C:24]([O:23][CH3:22])=[O:25])[C:27]#[N:28],water,298.15,4.773806001229858,-54.03389999232178
3880,4439,[CH3:9][NH:10][C:11](=[O:12])[CH:13]=[NH+:14][C-:15]([CH3:16])[C:17](=[O:18])[NH:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:15]([CH3:16])([C:17](=[O:18])[NH:19][CH3:20])[NH:14][CH:13]1[C:11]([NH:10][CH3:9])=[O:12],water,298.15,14.282824200126884,-22.34125128424698
4208,4813,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([C:10]([CH3:11])=[O:12])=[N+:13]([CH3:14])[C-:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:15]([CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:13]([CH3:14])[C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:10]([CH3:11])=[O:12],water,298.15,46.78560489257243,-5.8204603391483145
1296,1418,[CH3:18][C:19](=[O:20])[CH:21]=[N+:22]([CH3:23])[N-:24][C:25]#[N:26].[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]#[C:8][C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3]1([C:4]([CH3:5])=[O:6])[C:7]2=[C:8]([C:9]([C:10]#[N:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:24]([C:25]#[N:26])[N:22]([CH3:23])[CH:21]2[C:19]([CH3:18])=[O:20],water,298.15,12.479159690738308,-34.689653619235195
3635,4154,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([C:12]#[N:13])[O+:14]=[C:15]([CH3:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:12]#[N:13])[O:14][C:15]1([CH3:16])[C:17]([CH3:18])=[O:19],water,298.15,23.36274281244108,-26.36015735333063
1572,1738,[CH3:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([C:21]#[N:22])[C:23]#[N:24])[C:25]([CH3:26])=[O:27].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[Cl:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:20]([C:21]#[N:22])([C:23]#[N:24])[NH:19][C:18]2([C:16]([CH3:15])=[O:17])[C:25]([CH3:26])=[O:27],water,298.15,27.58365390902855,-0.1383865677841037
512,559,[CH3:14][N-:15][NH+:16]=[N:17][C:18](=[O:19])[O:20][CH3:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]#[N:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[N:15]([CH3:14])[NH:16][N:17]2[C:18](=[O:19])[O:20][CH3:21],water,298.15,43.75144933764005,6.693036108270468
3224,3640,[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8].[O-:9][N+:10]#[C:11][c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[O:9][N:10]=[C:11]1[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1,water,298.15,21.31772354066197,-24.797146630231804
3799,4349,[CH2:10]=[N+:11]([CH3:12])[C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[N:11]([CH3:12])[CH2:10]1,water,298.15,17.776285376836015,-30.62898960490569
